*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_0 1 2 3 4 REF
C_C1 1 REF 1.0734269830862pf
C_C2 1 2 13.081703214906pf
C_C3 1 3 0.0133540476876pf
C_C4 1 4 0.180417943189pf
C_C5 2 REF 1.2294746046811pf
C_C6 2 3 0.0684979083508pf
C_C7 3 REF 0.3292668323455pf
C_C8 3 4 8.0084946017587pf
C_C9 4 REF 0.2820419852693pf
L_L1 3 5 1.3138770424121nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_1 1 2 3 4 REF
C_C1 1 REF 0.8225289999466pf
C_C2 1 2 13.278045475474pf
C_C3 1 3 0.0144198034978pf
C_C4 1 4 0.1801345334637pf
C_C5 2 REF 0.9815458977734pf
C_C6 2 3 0.0736178140388pf
C_C7 3 REF 0.3231074461465pf
C_C8 3 4 5.9519781290414pf
C_C9 4 REF 0.2880663586902pf
R_R1 1 2 932.19617149652
L_L1 3 5 1.3155749926996nh
R_RL1 5 4 1.3716105173e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_2 1 2 3 4 REF
C_C1 1 REF 0.6458040636187pf
C_C2 1 2 13.45637755128pf
C_C3 1 3 0.0148994018255pf
C_C4 1 4 0.1805855482637pf
C_C5 2 REF 0.8077893509791pf
C_C6 2 3 0.0777418312178pf
C_C7 3 REF 0.3185275749883pf
C_C8 3 4 4.5159543399006pf
C_C9 4 REF 0.2927851662074pf
R_R1 1 2 908.29872456321
L_L1 3 5 1.3169893926194nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_3 1 2 3 4 REF
C_C1 1 REF 0.4960968089707pf
C_C2 1 2 13.673219831076pf
C_C3 1 3 0.0148934435688pf
C_C4 1 4 0.1819869027885pf
C_C5 2 REF 0.6619325630821pf
C_C6 2 3 0.081822415131pf
C_C7 3 REF 0.3144803802517pf
C_C8 3 4 3.2801649930806pf
C_C9 4 REF 0.2972393889917pf
R_R1 1 2 893.5685036793
L_L1 3 5 1.3184209669217nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_4 1 2 3 4 REF
C_C1 1 REF 0.3819908123001pf
C_C2 1 2 13.939408518071pf
C_C3 1 3 0.0143112372144pf
C_C4 1 4 0.1845540912894pf
C_C5 2 REF 0.5526961752203pf
C_C6 2 3 0.0855854900773pf
C_C7 3 REF 0.3113299701384pf
C_C8 3 4 2.2895810930961pf
C_C9 4 REF 0.3010102482419pf
R_R1 1 2 893.77749648046
L_L1 3 5 1.3198516598761nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_5 1 2 3 4 REF
C_C1 1 REF 0.3136098135836pf
C_C2 1 2 14.228050765829pf
C_C3 1 3 0.0132951383283pf
C_C4 1 4 0.1879292865258pf
C_C5 2 REF 0.489591566281pf
C_C6 2 3 0.0884860805074pf
C_C7 3 REF 0.3094742569245pf
C_C8 3 4 1.6338798281858pf
C_C9 4 REF 0.3034972944619pf
R_R1 1 2 912.87195108615
L_L1 3 5 1.3210069966097nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_6 1 2 3 4 REF
C_C1 1 REF 0.2731818657189pf
C_C2 1 2 14.548947615012pf
C_C3 1 3 0.0119949160641pf
C_C4 1 4 0.1919703723532pf
C_C5 2 REF 0.4549103301885pf
C_C6 2 3 0.0908250847919pf
C_C7 3 REF 0.3084632228657pf
C_C8 3 4 1.184515419853pf
C_C9 4 REF 0.3050667089068pf
R_R1 1 2 952.29609936406
L_L1 3 5 1.3219556874498nh
R_RL1 5 4 -1.313719952e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_7 1 2 3 4 REF
C_C1 1 REF 0.2474534730445pf
C_C2 1 2 14.976425767892pf
C_C3 1 3 0.0102241450992pf
C_C4 1 4 0.1974547936926pf
C_C5 2 REF 0.4365876470739pf
C_C6 2 3 0.0931383763676pf
C_C7 3 REF 0.3079525885481pf
C_C8 3 4 0.8256673241056pf
C_C9 4 REF 0.30608893559pf
L_L1 3 5 1.3228499607382nh
R_RL1 5 4 -1.783695552e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_8 1 2 3 4 REF
C_C1 1 REF 0.2335836515965pf
C_C2 1 2 15.537270322081pf
C_C3 1 4 0.2045608254633pf
C_C4 2 REF 0.4320559129745pf
C_C5 2 3 0.0955290093067pf
C_C6 3 REF 0.3078425987885pf
C_C7 3 4 0.5490085771577pf
C_C8 4 REF 0.3065947421663pf
L_L1 3 5 1.3236932934459nh
R_RL1 5 4 -2.217531534e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_9 1 2 3 4 REF
C_C1 1 REF 0.2284535659844pf
C_C2 1 2 16.28394340811pf
C_C3 1 4 0.2137389434915pf
C_C4 2 REF 0.4388086446974pf
C_C5 2 3 0.0982186726463pf
C_C6 3 REF 0.3080074630074pf
C_C7 3 4 0.3446962985875pf
C_C8 4 REF 0.3066599537087pf
L_L1 3 5 1.32444124082nh
R_RL1 5 4 -2.558483249e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_10 1 2 3 4 REF
C_C1 1 REF 0.2280396394105pf
C_C2 1 2 17.26679948572pf
C_C3 1 4 0.2254056033738pf
C_C4 2 REF 0.4533733966618pf
C_C5 2 3 0.1014820040766pf
C_C6 3 REF 0.3082887338436pf
C_C7 3 4 0.1963483556141pf
C_C8 4 REF 0.3064373343561pf
L_L1 3 5 1.3251094510169nh
R_RL1 5 4 -2.778405565e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_11 1 2 3 4 REF
C_C1 1 REF 0.2289628607381pf
C_C2 1 2 18.584788272215pf
C_C3 1 4 0.2405243596666pf
C_C4 2 REF 0.4735707134348pf
C_C5 2 3 0.1057550778788pf
C_C6 3 REF 0.3085667520721pf
C_C7 3 4 0.091628781603pf
C_C8 4 REF 0.3060610063864pf
L_L1 1 5 91.130980685017nh
R_RL1 5 2 17.551413282211
L_L2 3 6 1.3256601144586nh
R_RL2 6 4 -2.826544801e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_12 1 2 3 4 REF
C_C1 1 REF 0.2281248279413pf
C_C2 1 2 20.351302795299pf
C_C3 1 4 0.2602416968534pf
C_C4 2 REF 0.4976907618277pf
C_C5 2 3 0.1115308766302pf
C_C6 3 REF 0.3087621153723pf
C_C7 3 4 0.018358745341pf
C_C8 4 REF 0.305655034311pf
L_L1 1 5 56.019726072698nh
R_RL1 5 2 12.019967962597
L_L2 3 6 1.3261006273634nh
R_RL2 6 4 -2.682755758e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_13 1 2 3 4 REF
C_C1 1 REF 0.2225278177906pf
C_C2 1 2 22.793401842238pf
C_C3 1 4 0.2869387826308pf
C_C4 2 REF 0.5256279365689pf
C_C5 2 3 0.1196797802616pf
C_C6 3 REF 0.3088343728956pf
C_C7 4 REF 0.3053064104552pf
L_L1 1 5 34.160544358736nh
R_RL1 5 2 7.6576867967678
L_L2 3 6 1.3261080512859nh
R_RL2 6 4 -2.330670213e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_14 1 2 3 4 REF
C_C1 1 REF 0.2091209527957pf
C_C2 1 2 26.23019356554pf
C_C3 1 4 0.3240030769488pf
C_C4 2 REF 0.5584497946962pf
C_C5 2 3 0.1313836026781pf
C_C6 3 REF 0.3087760040584pf
C_C7 4 REF 0.3050762067817pf
R_R1 1 2 -624.1865739745
L_L1 1 5 20.443310760558nh
R_RL1 5 2 4.7571941612932
L_L2 3 6 1.3258394055141nh
R_RL2 6 4 -1.769761548e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_15 1 2 3 4 REF
C_C1 1 REF 0.1830212413744pf
C_C2 1 2 31.337766796574pf
C_C3 1 4 0.3786267810221pf
C_C4 2 REF 0.6000799451819pf
C_C5 2 3 0.1490683679148pf
C_C6 3 REF 0.3085835271045pf
C_C7 4 REF 0.3050212976731pf
R_R1 1 2 -407.4676688302
L_L1 1 5 11.900165651076nh
R_RL1 5 2 3.4953248423153
L_L2 3 6 1.325370394667nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_16 1 2 3 4 REF
C_C1 1 REF 0.1320386987244pf
C_C2 1 2 40.012113707169pf
C_C3 1 4 0.4709939993581pf
C_C4 2 REF 0.6631654113217pf
C_C5 2 3 0.179445254993pf
C_C6 3 REF 0.3082227312968pf
C_C7 4 REF 0.3052441394119pf
R_R1 1 2 -284.2858958897
L_L1 1 5 7.1340886120715nh
R_RL1 5 2 2.2615241195017
L_L2 3 6 1.3245515232498nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_17 1 2 3 4 REF
C_C1 1 REF 0.0270759778785pf
C_C2 1 2 56.678902968605pf
C_C3 1 4 0.6481806032563pf
C_C4 2 REF 0.7765649297458pf
C_C5 2 3 0.238191048807pf
C_C6 3 REF 0.3076002248114pf
C_C7 4 REF 0.3060406091935pf
R_R1 1 2 -217.6627222746
L_L1 1 5 3.4970143805844nh
R_RL1 5 2 0.1015846875443
L_L2 3 6 1.3230028457381nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_18 1 2 3 4 REF
C_C1 1 2 96.568671923529pf
C_C2 1 4 1.072266807257pf
C_C3 2 REF 1.0404469429306pf
C_C4 2 3 0.3791594131675pf
C_C5 3 REF 0.3063689390905pf
C_C6 4 REF 0.3084456317164pf
R_R1 1 2 -263.0967309732
L_L1 1 5 1.2790148055531nh
R_RL1 5 2 0.0400579809481
L_L2 1 6 57.918266932386nh
R_RL2 6 3 0.0262706128716
L_L3 1 7 57.181720661383nh
R_RL3 7 4 0.0264771318646
L_L4 2 8 58.016208777142nh
R_RL4 8 3 0.0021451104467
L_L5 2 9 57.282738521493nh
R_RL5 9 4 0.0020779449104
L_L6 3 10 1.3193958469274nh
R_RL6 10 4 1.3853260374e-5
Kn_K1 L_L1 L_L2 0.0686121717953
Kn_K2 L_L1 L_L3 0.0688728053151
Kn_K3 L_L1 L_L4 -0.079924110893
Kn_K4 L_L1 L_L5 -0.080613856647
Kn_K5 L_L2 L_L3 0.9885571999716
Kn_K6 L_L2 L_L4 0.9889681314957
Kn_K7 L_L2 L_L5 0.9774327211984
Kn_K8 L_L2 L_L6 -0.117594105378
Kn_K9 L_L3 L_L4 0.9774962958711
Kn_K10 L_L3 L_L5 0.9888264817106
Kn_K11 L_L3 L_L6 0.0335513749917
Kn_K12 L_L4 L_L5 0.988576743051
Kn_K13 L_L4 L_L6 -0.117319012546
Kn_K14 L_L5 L_L6 0.033698690806
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_19 1 2 3 4 REF
C_C1 1 2 251.60599036944pf
C_C2 1 4 2.7216877045512pf
C_C3 2 REF 2.0584775271703pf
C_C4 2 3 0.9272764228569pf
C_C5 3 REF 0.3023937961996pf
C_C6 4 REF 0.3188413362369pf
R_R1 1 2 37.326767482021
L_L1 1 5 46.167467811563nh
R_RL1 5 REF -1.079313337214
L_L2 1 6 0.3330385975179nh
R_RL2 6 2 -0.045188822714
L_L3 1 7 17.719873521211nh
R_RL3 7 3 -0.025129665688
L_L4 1 8 17.034322754898nh
R_RL4 8 4 -0.026146915349
L_L5 2 9 45.896156867565nh
R_RL5 9 REF -1.115296925009
L_L6 2 10 17.782503924932nh
R_RL6 10 3 -2.832919862e-3
L_L7 2 11 17.101148464329nh
R_RL7 11 4 -2.517770599e-3
L_L8 3 12 63.492260383298nh
R_RL8 12 REF -1.07331496962
L_L9 3 13 1.3055538098309nh
R_RL9 13 4 1.0e-5
L_L10 4 14 62.797294559038nh
R_RL10 14 REF -1.073929072912
Kn_K1 L_L1 L_L2 0.0770624636839
Kn_K2 L_L1 L_L5 0.9963868437028
Kn_K3 L_L1 L_L8 0.8490737128597
Kn_K4 L_L1 L_L10 0.8536716261627
Kn_K5 L_L2 L_L3 0.0556560343342
Kn_K6 L_L2 L_L4 0.0558842415317
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081293961961
Kn_K9 L_L2 L_L7 -0.083776598016
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9626219402738
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9906208007508
Kn_K15 L_L3 L_L7 0.9529724075005
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.206983810434
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.953277391706
Kn_K21 L_L4 L_L7 0.9902455184433
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0657361101456
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8484865423369
Kn_K26 L_L5 L_L10 0.853041884653
Kn_K27 L_L6 L_L7 0.9627577179585
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.206183636733
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0660514860874
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1098639071244
Kn_K35 L_L8 L_L10 0.9896772036919
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_20 1 2 3 4 REF
C_C1 1 REF 33.152475098081pf
C_C2 1 3 17.715499607502pf
C_C3 2 4 53.159158157049pf
C_C4 3 REF 0.423592604746pf
R_R1 1 REF -10.92371447383
R_R2 1 2 0.071836049839
R_R3 1 3 -20.35215293916
R_R4 1 4 6.7478258105867
R_R5 2 REF 10.925569475531
R_R6 2 3 20.362987814033
R_R7 2 4 -6.751496266892
L_L1 1 5 1.4979532730071nh
R_RL1 5 REF -1.226702768e-3
L_L2 1 6 0.0055118914707nh
R_RL2 6 2 -0.07782145698
L_L3 1 7 1.227741431885nh
R_RL3 7 3 -0.023669590544
L_L4 1 8 0.7388358330331nh
R_RL4 8 4 -0.052555301255
L_L5 2 9 1.4840034207755nh
R_RL5 9 REF -0.082202768465
L_L6 2 10 1.2291729880829nh
R_RL6 10 3 -0.015644862397
L_L7 2 11 0.7476004763805nh
R_RL7 11 4 -2.470843842e-3
L_L8 3 12 2.7155954736924nh
R_RL8 12 REF -0.026597928027
L_L9 3 13 0.9675220376651nh
R_RL9 13 4 -5.674032494e-3
L_L10 4 14 2.2309985245847nh
R_RL10 14 REF -0.056341642448
Kn_K1 L_L1 L_L2 0.1070908316554
Kn_K2 L_L1 L_L5 0.998162507876
Kn_K3 L_L1 L_L8 0.740201755605
Kn_K4 L_L1 L_L10 0.8178228892077
Kn_K5 L_L2 L_L3 0.0248005932216
Kn_K6 L_L2 L_L4 -0.0254857041
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.04217822879
Kn_K9 L_L2 L_L7 -0.111200745703
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.050208366129
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5244837893936
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9977567491553
Kn_K16 L_L3 L_L7 0.5192707801919
Kn_K17 L_L3 L_L8 0.8176092344703
Kn_K18 L_L3 L_L9 -0.668151621495
Kn_K19 L_L3 L_L10 0.9033476904292
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5258849146854
Kn_K22 L_L4 L_L7 0.996309194951
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2830435139346
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7398415861589
Kn_K27 L_L5 L_L10 0.8154159816903
Kn_K28 L_L6 L_L7 0.526414796291
Kn_K29 L_L6 L_L8 0.8129235149183
Kn_K30 L_L6 L_L9 -0.664400254886
Kn_K31 L_L6 L_L10 0.8959631877382
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2856905988976
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4479290584237
Kn_K36 L_L8 L_L10 0.8082944895698
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_21 1 2 3 4 REF
C_C1 1 2 3567.4918825607pf
C_C2 1 4 38.040377222469pf
C_C3 2 REF 23.817551737909pf
C_C4 2 3 12.659465970279pf
C_C5 3 REF 0.2243441372499pf
C_C6 4 REF 0.5494490099887pf
R_R1 1 REF 12.987502140185
R_R2 1 2 -0.085422304668
R_R3 1 3 24.194483312613
R_R4 1 4 -8.023615067049
R_R5 2 REF -12.99844909152
R_R6 2 3 -24.20772885519
R_R7 2 4 8.0279075301526
L_L1 1 5 1.7407667212597nh
R_RL1 5 REF -9.75105624e-4
L_L2 1 6 0.0078305436998nh
R_RL2 6 2 0.0248221156274
L_L3 1 7 1.3656503733159nh
R_RL3 7 3 0.0081642342465
L_L4 1 8 0.8507394117577nh
R_RL4 8 4 0.0163574115916
L_L5 2 9 1.7259062461956nh
R_RL5 9 REF 0.0240333479009
L_L6 2 10 1.3677264446495nh
R_RL6 10 3 0.0045193872279
L_L7 2 11 0.8597383246928nh
R_RL7 11 4 8.7947375072e-4
L_L8 3 12 3.0936855245072nh
R_RL8 12 REF 0.0073392797165
L_L9 3 13 1.0095706734677nh
R_RL9 13 4 0.0014152468003
L_L10 4 14 2.5732917027643nh
R_RL10 14 REF 0.0155727883836
Kn_K1 L_L1 L_L2 0.0971757167776
Kn_K2 L_L1 L_L5 0.9977503605558
Kn_K3 L_L1 L_L8 0.7473794097334
Kn_K4 L_L1 L_L10 0.8181778231891
Kn_K5 L_L2 L_L3 0.0278233738064
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.047862977316
Kn_K8 L_L2 L_L7 -0.102555981772
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 -0.038930508567
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.559814500282
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9971355001289
Kn_K15 L_L3 L_L7 0.5542216386533
Kn_K16 L_L3 L_L8 0.8438041418108
Kn_K17 L_L3 L_L9 -0.649163471634
Kn_K18 L_L3 L_L10 0.9237367620162
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.5599310348792
Kn_K21 L_L4 L_L7 0.995435789933
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.2668762367837
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.746925290918
Kn_K26 L_L5 L_L10 0.8160318502732
Kn_K27 L_L6 L_L7 0.5615607741271
Kn_K28 L_L6 L_L8 0.8390467184201
Kn_K29 L_L6 L_L9 -0.645724916315
Kn_K30 L_L6 L_L10 0.9166764794596
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.2691912379994
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.4328574643546
Kn_K35 L_L8 L_L10 0.8253374690294
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_22 1 2 3 4 REF
C_C1 1 2 123.49594336504pf
C_C2 1 4 1.3536272388337pf
C_C3 2 REF 1.2201813553985pf
C_C4 2 3 0.4756433183558pf
C_C5 3 REF 0.3036116742922pf
C_C6 4 REF 0.3079029846609pf
R_R1 1 2 -20.27085224367
L_L1 1 5 81.032207941081nh
R_RL1 5 REF 1.0130506296457
L_L2 1 6 0.2243626486661nh
R_RL2 6 2 0.0776265502804
L_L3 1 7 21.295248732529nh
R_RL3 7 3 0.0457307478255
L_L4 1 8 20.578845158676nh
R_RL4 8 4 0.0470461813496
L_L5 2 9 80.193459557202nh
R_RL5 9 REF 1.0851489226905
L_L6 2 10 21.45944606617nh
R_RL6 10 3 0.0038697191506
L_L7 2 11 20.751366867225nh
R_RL7 11 4 0.0034986557067
L_L8 3 12 1.3063729217027nh
R_RL8 12 4 1.0e-5
Kn_K1 L_L1 L_L2 0.1246649921386
Kn_K2 L_L1 L_L5 0.9986219072746
Kn_K3 L_L2 L_L3 0.0137625706564
Kn_K4 L_L2 L_L4 0.0120630490621
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.088540820494
Kn_K7 L_L2 L_L7 -0.091967705819
Kn_K8 L_L3 L_L4 0.9689441756232
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9947596631231
Kn_K11 L_L3 L_L7 0.9634769495216
Kn_K12 L_L3 L_L8 -0.191753349755
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9639966561567
Kn_K15 L_L4 L_L7 0.9945801263715
Kn_K16 L_L4 L_L8 0.0568925458197
Kn_K17 L_L6 L_L7 0.9691875975423
Kn_K18 L_L6 L_L8 -0.190232237172
Kn_K19 L_L7 L_L8 0.057454957997
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_23 1 2 3 4 REF
C_C1 1 REF 0.1885721772252pf
C_C2 1 2 35.820072169801pf
C_C3 1 4 0.4194226991406pf
C_C4 2 REF 0.6494591972216pf
C_C5 2 3 0.1653207016809pf
C_C6 3 REF 0.3047351609123pf
C_C7 4 REF 0.3007668244548pf
R_R1 1 2 -89.81220247554
L_L1 1 5 0.6054277551061nh
R_RL1 5 2 0.1848151615497
L_L2 1 6 77.146613991336nh
R_RL2 6 3 0.1367202777074
L_L3 1 7 76.233496482002nh
R_RL3 7 4 0.1358318615296
L_L4 2 8 78.036597970554nh
R_RL4 8 3 0.2070471796965
L_L5 2 9 77.131573685736nh
R_RL5 9 4 0.2042253885404
L_L6 3 10 1.3167202184525nh
R_RL6 10 4 -1.209733387e-5
Kn_K1 L_L1 L_L2 -0.020818454979
Kn_K2 L_L1 L_L3 -0.021538409586
Kn_K3 L_L1 L_L4 -0.108780352339
Kn_K4 L_L1 L_L5 -0.110008846188
Kn_K5 L_L2 L_L3 0.9914328823609
Kn_K6 L_L2 L_L4 0.9961150076188
Kn_K7 L_L2 L_L5 0.98748857176
Kn_K8 L_L2 L_L6 -0.110621126498
Kn_K9 L_L3 L_L4 0.9876602970571
Kn_K10 L_L3 L_L5 0.996069453226
Kn_K11 L_L3 L_L6 0.0201420841129
Kn_K12 L_L4 L_L5 0.9915311030623
Kn_K13 L_L4 L_L6 -0.109589312544
Kn_K14 L_L5 L_L6 0.0204260190939
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_24 1 2 3 4 REF
C_C1 1 REF 0.3264507231959pf
C_C2 1 2 15.593179638911pf
C_C3 1 3 0.0207535195957pf
C_C4 1 4 0.2046721330227pf
C_C5 2 REF 0.5245939091578pf
C_C6 2 3 0.0926101422341pf
C_C7 3 REF 0.3040924200377pf
C_C8 4 REF 0.2981343653092pf
R_R1 1 2 -324.4158099728
L_L1 1 5 0.9668799469565nh
R_RL1 5 2 0.1450512889708
L_L2 3 6 1.3177831982203nh
R_RL2 6 4 -1.200943518e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_25 1 2 3 4 REF
C_C1 1 REF 0.3800738986554pf
C_C2 1 2 8.2990140230605pf
C_C3 1 3 0.0513010267884pf
C_C4 1 4 0.127675250856pf
C_C5 2 REF 0.4864272662967pf
C_C6 2 3 0.0648581918295pf
C_C7 3 REF 0.3028996102537pf
C_C8 4 REF 0.2961006730937pf
L_L1 1 5 1.4999123896005nh
R_RL1 5 2 3.7058392575e-5
L_L2 3 6 1.3156335556016nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_26 1 2 3 4 REF
C_C1 1 REF 0.4000021885139pf
C_C2 1 2 6.1612492775769pf
C_C3 1 3 0.0625586756171pf
C_C4 1 4 0.1038331736722pf
C_C5 2 REF 0.478378626011pf
C_C6 2 3 0.0558137920326pf
C_C7 2 4 0.0236620429517pf
C_C8 3 REF 0.3018611711617pf
C_C9 4 REF 0.2946940588074pf
L_L1 1 5 1.7474339798828nh
R_RL1 5 2 1.2315163478e-4
L_L2 3 6 1.3147486136946nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param57_26

